US05059611
4-(2-Carboxytridecyl)-5-hydroxy-2(5H)-furanone
A mixture of 4-(2-carboxytridecyl)-2-trimethylsilylfuran (46.3 mg, 0.126 mmol) and Rose Bengal (5 mg) in acetone (10 ml) was exposed to singlet oxygen at -78° for 2 hours. The residue, after solvent removal, was purified by preparative TLC (20×20 cm, 500μ silica plate; developed with 10% MeOH/CHCl3 containing a few drops of acetic acid). The title compound was obtained as a colorless solid.

reactant | 4-(2-carboxytridecyl)-2-trimethylsilylfuran | 0.126 mmol, 46.3 mg | C(=O)(O)C(CC=1C=C(OC1)[Si](C)(C)C)CCCCCCCCCCC | C21H38O3Si
reactant | Rose Bengal | 5 mg | C1=C2C(=C(C(=C1I)O)I)OC3=C(C(=C(C=C3C24C5=C(C(=C(C(=C5Cl)Cl)Cl)Cl)C(=O)O4)I)O)I | C20H4Cl4I4O5
reactant | singlet oxygen | O=O | O2
reactant | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-(2-Carboxytridecyl)-5-hydroxy-2(5H)-furanone | C(=O)(O)C(CC1=CC(OC1O)=O)CCCCCCCCCCC | C18H30O5
